US06610688B2
To a solution of 3-(5-formyl-4-methyl-1H-pyrrol-2-yl)-propionic acid (271.8 mg, 1.5 mmol) in DMF (4mL) was added HOBt (243.2 mg, 1.8 mmol), EDC (345.1 mg, 1.8 mmol) and then 1-methylpiperazine (0.2 mL, 1.8 mmol). The mixture was stirred at room temperature under nitrogen for overnight. The reaction was poured into sat. sodium bicarbonate (50 mL) and extracted with ethyl acetate. The combined organic layer was dried, concentrated and column chromatographed (MeOH/DCM) to give 325.2 mg (82%) of 3-methyl-5-[3-(4-methyl-piperazin-1-yl)-3-oxo-propyl]-1H-pyrrole-2-carbaldehyde as a white solid.

reactant | 3-(5-formyl-4-methyl-1H-pyrrol-2-yl)-propionic acid | 1.5 mmol, 271.8 mg | C(=O)C1=C(C=C(N1)CCC(=O)O)C | C9H11NO3
reactant | HOBt | 1.8 mmol, 243.2 mg | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | EDC | 1.8 mmol, 345.1 mg
reactant | 1-methylpiperazine | 1.8 mmol, 0.2 mL | CN1CCNCC1 | C5H12N2
reactant | sodium bicarbonate | 50 mL | C([O-])(O)=O.[Na+]
solvent | DMF | 4mL | CN(C)C=O | C3H7NO
product | 3-methyl-5-[3-(4-methyl-piperazin-1-yl)-3-oxo-propyl]-1H-pyrrole-2-carbaldehyde | 325.2 mg, 82% | CC1=C(NC(=C1)CCC(=O)N1CCN(CC1)C)C=O | C14H21N3O2
